US04331814
1-Chloro-2-methyl-4-acetoxy-2-butene was prepared in accordance with the process described in J. Am. Chem. Soc. 72 4610 (1950) by reacting t-butyl hypochlorite with isoprene in an acetic acid medium.

reactant | t-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
reactant | isoprene | C=CC(C)=C | C5H8
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Chloro-2-methyl-4-acetoxy-2-butene | ClCC(=CCOC(C)=O)C | C7H11ClO2
